US09376418B2
Triethylamine (44.2 μL, 0.317 mmol) followed by methyl isocyanate (18.1 mg, 0.317 mmol was added to a solution of 5-(pyridin-3-yl)-N-[4-(trifluoromethyl)pyrimidin-2-yl]benzene-1,3-diamine (35 mg, 0.106 mmol) in THF (264 μL). The reaction mixture was heated to 40° C. for 4 hours, then cooled to room temperature and concentrated under reduced pressure. The solid was diluted with diethyl ether (5.00 mL) and was filtered to isolate 1-methyl-3-[3-(pyridin-3-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]urea as a tan powder. The product was further dried under reduced pressure. MS APC calc'd for C18H16F3N6O [M+H]+ 389. found 389. 1H NMR (500 MHz, DMSO-d6) δ 10.26 (s, 1H), 8.81 (s, 1H), 8.75 (s, 1H), 8.63 (s, 1H), 8.56 (s, 1H), 7.92 (d, J=8.5 Hz, 1H), 7.70 (s, 1H), 7.63 (s, 1H), 7.55 (s, 1H), 7.49 (s, 1H), 7.26 (s, 1H), 6.06 (s, 1H), 2.64 (s, 3H).

reactant | Triethylamine | 0.317 mmol, 44.2 μL | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | 5-(pyridin-3-yl)-N-[4-(trifluoromethyl)pyrimidin-2-yl]benzene-1,3-diamine | 0.106 mmol, 35 mg | N1=CC(=CC=C1)C=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)N | C16H12F3N5
solvent | THF | 264 μL | C1CCOC1 | C4H8O
product | 1-methyl-3-[3-(pyridin-3-yl)-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl]urea | CNC(=O)NC1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=NC=CC1 | C18H15F3N6O
